US07696200B2
To a solution of 5-chloro-2-methoxy-benzenesulfonyl chloride (4.7 g, 19.7 mmol, 1.05 equiv.) in dichloromethane (60 mL) and pyridine (25 mL) was added a solution of 3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid methyl ester (3.6 g, 18.8 mmol, 1 equiv.) in dichloro-methane (60 mL). The mixture was stirred at room temperature overnight then the solvent was removed. The residue was purified by flash chromatography to yield 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid methyl ester as a pink solid, 7.12 g (95%), MS (ISP): m/e=398.0 (M+H+.); δH (300 MHz; CDCl3) 8.24 (1H, s), 8.07 (1H, s), 7.72 (1H, dd), 7.48 (1H, dd), 6.91 (1H, d), 6.89 (1H, d), 4.10 (2H, m), 3.91 (2H, m), 3.88 (3H, s), 3.63 (3H, s).

reactant | 5-chloro-2-methoxy-benzenesulfonyl chloride | 19.7 mmol, 4.7 g, 1.05 equiv. | ClC=1C=CC(=C(C1)S(=O)(=O)Cl)OC | C7H6Cl2O3S
reactant | 3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid methyl ester | 18.8 mmol, 3.6 g, 1 equiv. | COC(=O)C=1C=CC2=C(NCCO2)C1 | C10H11NO3
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloro-methane | 60 mL | ClCCl | CH2Cl2
product | 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid methyl ester | COC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1 | C17H16ClNO6S
